data/mechanisms/records/IMS8-EQ8.81b.json
{"mechanism_id": "IMS8-EQ8.81b", "species": [{"species_id": "phenyl_hexenal_radical_cation", "mapped_smiles": "[cH:21]1[cH:22][cH:23][cH:24][cH:25][c:20]1[CH:6]=[CH:5][CH:4]([1H:12])[CH2:3][CH2:2][C:1]([1H:11])=[O+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "phenylbutadiene_distonic_radical_cation", "mapped_smiles": "[cH:21]1[cH:22][cH:23][cH:24][cH:25][c:20]1[CH:6]=[CH:5][CH:4][CH2+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "vinyl_alcohol_neutral", "mapped_smiles": "[CH2:2]=[C:1]([1H:11])[O:7][1H:12]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["phenyl_hexenal_radical_cation"]}, {"state_id": "state_products", "species_ids": ["phenylbutadiene_distonic_radical_cation", "vinyl_alcohol_neutral"]}], "steps": [{"step_id": "step_rH_i_enol_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement_inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 12]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 12]}, "target": {"type": "bond", "atom_maps": [7, 12]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 12]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH_i", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_i_enol_loss", "support_type": "textbook_proposed", "locator": {"page": 197, "equation": "8.81", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.7, "curator_note": "DETECTION CONSISTENCY: this precursor is the SAME ion as the product of IMS8-EQ8.81a (the (M-CH3OH)+. phenylhexenal radical cation, curator-computed m/z 174.1039), which the p197 text reports as an observed peak ('yielding (M-CH3OH)+. and (M-76)+. peaks ... very useful for identifying substitution at C-6'). detected is therefore set true here as well, matching 8.81a; it was previously false, which made the two records disagree about whether the same ion is observed. Bottom row of Equation 8.81, a SEPARATE scheme sharing the equation number: the page redraws the (M - CH3OH)+. enal ion of IMS8-EQ8.81a (the two structures are joined by the identity sign '|||' = 'is identical to') in a chair-like conformation and lets it dissociate further over an arrow labelled 'rH' above and 'i' below, giving the (M - 76)+. ion plus the enol CH2=CH-OH. The precursor is therefore the m/z 174 FRAGMENT ion, not the molecular ion (ms_context.adduct = null). Mechanism as drawn: the carbonyl O+. abstracts the gamma-H (on the allylic C-4) through the classic six-membered McLafferty arrangement, then the C2-C3 bond is cleaved heterolytically toward the enol so the charge MIGRATES to the hydrocarbon ('i'). Book draws 3 arcs; moves <1,2,5> are drawn - <1> fishhook from the O+. odd electron pointing at the gamma-H, <2> fishhook from the C4-H bond pointing at the O, <5> a full solid-headed (two-barbed) arrow from the C2-C3 bond to the forming C1=C2 bond; moves <3> and <4> are implicit and not drawn on the page: <3> is the implicit homolysis hook that leaves the second C4-H electron on C-4 (required for electron balance, and drawn in the product as the '.' on that carbon) and <4> is the carbonyl pi pair collapsing onto oxygen (required because the drawn neutral is the C-O SINGLE-bonded enol CH2=CH-OH with a neutral OH). The product ion is drawn LOCALIZED as a distonic species - '.' on the former gamma carbon (C-4) and '+' on the terminal CH2 that lost the enol (C-3) - and is encoded exactly in that drawn resonance form; it is one localized form of the delocalized 1-phenyl-1,3-butadiene radical cation C10H10+. that the mass label '(M - 76)+.' denotes."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "consecutive unimolecular dissociation of the source-formed (M - CH3OH)+• EI fragment ion (no CAD/MI experiment named on the page)", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 174.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_M_minus_76", "species_id": "phenylbutadiene_distonic_radical_cation", "step_id": "step_rH_i_enol_loss", "observed_mz": 130.0777, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
